### PR TITLE
feat: Define linear programs

### PR DESCRIPTION
**Pull request by madvorak**
Linear programs over a general `Module` with constraints given in the form "aᵀx - b ≥ 0" and the objective function as an `AffineMap` to be minimized.

---

Zulip discussion:
https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237386.20Linear.20Programming

Four PRs incompatible with each other:
https://github.com/leanprover-community/mathlib4/pull/7386 (list of constraints)
https://github.com/leanprover-community/mathlib4/pull/9693 (matrix form)
https://github.com/leanprover-community/mathlib4/pull/10026 (Antoine Chambert-Loir's def; semirings, linear)
https://github.com/leanprover-community/mathlib4/pull/10159 (Antoine Chambert-Loir's def; rings, affine)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+
+section canonical
+
+open Matrix
+
+/-- Linear program in the canonical form. -/
+structure CanonicalLP (m n K : Type _) [Fintype m] [Fintype n] [LinearOrderedField K] where
+  A : (n → K) →ₗ[K] (m → K) /- (possibly not a) matrix of coefficients -/
+  b : m → K                /- right-hand side -/
+  c : n → K                /- objective function coefficients -/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:30]:
```suggestion
  /-- (possibly not a) matrix of coefficients -/
  A : (n → K) →ₗ[K] (m → K)
  /-- Right-hand side -/
  b : m → K              
  /-- Objective function coefficients -/  
  c : n → K                
```
with better descriptions

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+open Matrix
+
+/-- Linear program in the canonical form. -/
+structure CanonicalLP (m n K : Type _) [Fintype m] [Fintype n] [LinearOrderedField K] where
+  /-- (possibly not a) matrix of coefficients -/
+  A : (n → K) →ₗ[K] (m → K)
+  /-- Right-hand side -/
+  b : m → K
+  /-- Objective function coefficients -/
+  c : n → K
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:33]: Martin, this is a worst-of-both-worlds choice that is halfway between your proposed matrix-only version, and my vector-space-only version. I suggest reverting to your initial version.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+def StandardLP.Permits {K V : Type} [LinearOrderedField K] [AddCommGroup V] [Module K V]
+    (P : StandardLP K V) (x : V) : Prop :=
+  ∀ c ∈ P.constr, 0 ≤ c x
+
+
+/-- Linear program in a more versatile form. -/
+structure SomeLP (K V : Type) [LinearOrderedField K] [AddCommGroup V] [Module K V] where
+  eq : Finset (AffineMap K V K)
+  le : Finset (AffineMap K V K)
+  obj : AffineMap K V K
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:80]: This should be:
```suggestion
/-- Linear program in a more versatile form. -/
structure SomeLP (K : Type*) {V : Type*} (P : Type*)
    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor K P] where
  /-- Equality constraints -/
  eq : Finset (P →ᵃ[K] K)
  /-- Inequality constraints -/
  le : Finset (P →ᵃ[K] K)
  /-- The objective function -/
  obj : P →ᵃ[K] K
```

so that it actually works on affine spaces

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+  /-- Equality constraints -/
+  eq : Finset (P →ᵃ[K] K)
+  /-- Inequality constraints -/
+  le : Finset (P →ᵃ[K] K)
+  /-- The objective function -/
+  obj : P →ᵃ[K] K
+
+def SomeLP.Solutions {K V : Type} [LinearOrderedField K] [AddCommGroup V] [Module K V]
+    (P : SomeLP K V) : Set V :=
+  { x : V | (∀ e ∈ P.eq, e x = 0) ∧ (∀ i ∈ P.le, 0 ≤ i x) }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:87]: This should be generalize to `SomeLP K P` to match the above

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+  obj : AffineMap K V K
+
+def StandardLP.Permits {K V : Type} [LinearOrderedField K] [AddCommGroup V] [Module K V]
+    (P : StandardLP K V) (x : V) : Prop :=
+  ∀ c ∈ P.constr, 0 ≤ c x
+
+
+/-- Linear program in a more versatile form. -/
+structure SomeLP (K : Type*) {V : Type*} (P : Type*)
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor K P] where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:77]: Whoops, I think I meant
```suggestion
    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor V P] where
```

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: working on it!

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:77]: (which says `P` is an affine space whose vectors are `V`)

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+  /-- Equality constraints -/
+  eq : Finset (P →ᵃ[K] K)
+  /-- Inequality constraints -/
+  le : Finset (P →ᵃ[K] K)
+  /-- The objective function -/
+  obj : P →ᵃ[K] K
+
+def SomeLP.Solutions (K : Type*) {V : Type*} (P : Type*)
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor K P]
+    (P : SomeLP K V P) : Set V :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:87]:
```suggestion
    (P : SomeLP K P) : Set P :=
```

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 7]
```diff
@@ -0,0 +1,88 @@
...
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor K P] where
+  /-- Equality constraints -/
+  eq : Finset (P →ᵃ[K] K)
+  /-- Inequality constraints -/
+  le : Finset (P →ᵃ[K] K)
+  /-- The objective function -/
+  obj : P →ᵃ[K] K
+
+def SomeLP.Solutions (K : Type*) {V : Type*} (P : Type*)
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor K P]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:86]:
```suggestion
def SomeLP.solutions {K V P : Type*}
    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor V P]
```
the type arguments can be inferred from `lp`

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: Currently `e x` and `i x` don't typecheck.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: See my suggestion below: you want `x : P` not `x  :  V` (but now you have two `P`s and need to rename one)

Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: Ah, thank you!

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 8]
```diff
@@ -0,0 +1,45 @@
...
+  constraints := inequalities ++ equalities ++ equalities.map Neg.neg
+  objective := objectiv
+
+/-- The set of all admissible solutions to given linear program. -/
+def LinearProgram.feasibles (lp : LinearProgram K P) : Set P :=
+  { x : P | ∀ a ∈ lp.constraints, 0 ≤ a x }
+
+/-- Given linear program is minimized at given point. -/
+def LinearProgram.MinAt (lp : LinearProgram K P) (x : P) : Prop :=
+  x ∈ lp.feasibles ∧ ∀ y ∈ lp.feasibles, lp.objective x ≤ lp.objective y
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:45]: I think there might be a nice way to state this using `IsGreatest`, perhaps `IsGreatest (lp.objective x) (lp.objective '' lp.feasibles)`.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:1]: This probably doesn't belong in `Matrix` any more

**Review by eric-wieser — COMMENTED** [review]
This looks fine, but mathlib isn't a huge fan of definitions without any lemmas about them. Are there any low-hanging results that you can seed the file with?

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 9]
```diff
@@ -0,0 +1,45 @@
...
+  /-- Inequality constraints (given in the form "aᵀx - b ≥ 0") -/
+  constraints : List (P →ᵃ[K] K)
+  /-- The objective function (affine map) -/
+  objective : P →ᵃ[K] K
+
+variable {K V P : Type*} [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor V P]
+
+/-- Constructs a linear program given a list of equalities, a list of inequalities,
+    and an objective function. -/
+def linearProgram_of_equalities_inequalities_objective
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:33]: The naming convention doesn't allow `_`s here. Perhaps the shorter:
```suggestion
def LinearProgram.mkOfEqs
```

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 10]
```diff
@@ -0,0 +1,45 @@
...
+    (equalities inequalities : List (P →ᵃ[K] K)) (objectiv : P →ᵃ[K] K) :
+    LinearProgram K P where
+  constraints := inequalities ++ equalities ++ equalities.map Neg.neg
+  objective := objectiv
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:37]: I don't like name collisions (even if they get automatically resolved in the right way). Is it really necessary to make the collision here?

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:1]: What directory do you recommend?

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 8 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:45]: TODO using
https://github.com/leanprover-community/mathlib4/blob/60c0549c0f4066236400ae680319233691ce584c/Mathlib/Order/Bounds/Basic.lean#L66

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: There's no collision to speak of here, so I don't understand your objection.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:1]: Possibly just the same path with `Matrix` dropped.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: Well then you'll love the fact that Lean has builtin syntax for this, `{ objective }` as a shorthand for `{ objective := objective }`!

I think that ship has well and truly sailed.

[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: Can I use `{ objective }` here?

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean]: You might be able to use `{objective, constraints := _}`

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 11]
```diff
@@ -79,6 +78,23 @@ lemma LinearProgram.feasibles_mkOfEqs
       rw [← neg_orig]
       simp [hyp.1 orig orig_mem]
 
-/-- Given linear program is minimized at given point. -/
-def LinearProgram.MinAt (lp : LinearProgram K P) (x : P) : Prop :=
-  IsLeast (lp.objective '' lp.feasibles) (lp.objective x)
+/-- Adding more constraints cannot enlarge the set of feasible solutions. -/
+lemma feasiblesLinearProgram_superset_of_contraints_subset {lp₁ lp₂ : LinearProgram K P}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:82]:
```suggestion
lemma feasiblesLinearProgram_superset_of_constraints_subset {lp₁ lp₂ : LinearProgram K P}
```
and below

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 12]
```diff
@@ -0,0 +1,100 @@
...
+/-- Constructs a linear program given a list of equalities, a list of inequalities,
+    and an objective function. -/
+def LinearProgram.mkOfEqs
+    (equalities inequalities : List (P →ᵃ[K] K)) (objective : P →ᵃ[K] K) :
+    LinearProgram K P :=
+  { constraints := inequalities ++ equalities ++ equalities.map Neg.neg, objective }
+
+/-- The set of all admissible solutions to given linear program. -/
+def LinearProgram.feasibles (lp : LinearProgram K P) : Set P :=
+  { x : P | ∀ a ∈ lp.constraints, 0 ≤ a x }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:40]: You should add an API lemma immediately after this which expands `x \mem lp.feasibles` to the statement about `constraints`.

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:40]: You mean `LinearProgram.feasibles_mkOfEqs` up by one item?

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:40]: And the lemma `feasiblesLinearProgram_superset_of_constraints_subset` should come before defining `LinearProgram.MinAt` as well?

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:40]: Oh.

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 13]
```diff
@@ -0,0 +1,104 @@
...
+
+lemma LinearProgram.feasible_iff (lp : LinearProgram K P) (x : P) :
+    x ∈ lp.feasibles ↔ ∀ a ∈ lp.constraints, 0 ≤ a x :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:43]:
```suggestion
@[simp] lemma LinearProgram.mem_feasibles {lp : LinearProgram K P} {x : P} :
    x ∈ lp.feasibles ↔ ∀ ⦃a⦄, a ∈ lp.constraints → 0 ≤ a x :=
```

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 14]
```diff
@@ -0,0 +1,104 @@
...
+/-- Constructs a linear program given a list of equalities, a list of inequalities,
+    and an objective function. -/
+def LinearProgram.mkOfEqs
+    (equalities inequalities : List (P →ᵃ[K] K)) (objective : P →ᵃ[K] K) :
+    LinearProgram K P :=
+  { constraints := inequalities ++ equalities ++ equalities.map Neg.neg, objective }
+
+/-- The set of all admissible solutions to given linear program. -/
+def LinearProgram.feasibles (lp : LinearProgram K P) : Set P :=
+  { x : P | ∀ a ∈ lp.constraints, 0 ≤ a x }
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:40]:
```suggestion
  {x | ∀ ⦃a⦄, a ∈ lp.constraints → 0 ≤ a x}
```

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 15]
```diff
@@ -0,0 +1,104 @@
...
+    constructor
+    · intro constr_eq mem_equalities
+      refine le_antisymm ?neg (hyp (by simp [mem_equalities]))
+      rw [← Left.nonneg_neg_iff, ← Pi.neg_apply, ← AffineMap.coe_neg]
+      apply hyp
+      simp [mem_equalities]
+    · intro constr_le mem_inequalities
+      exact hyp (by simp [mem_inequalities])
+  · intro hyp
+    simp only [Set.mem_setOf_eq, LinearProgram.feasibles] at hyp
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:70]:
```suggestion
    simp only [mem_feasibles] at hyp
```
You shouldn't need to ever unfold `feasibles` any more. I recommend also doing this at the start of the proof before you split the goals

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 16]
```diff
@@ -0,0 +1,104 @@
...
+      | inl mem_les => exact hyp.2 constraint mem_les
+      | inr mem_eqs => exact Eq.ge (hyp.1 constraint mem_eqs)
+    | inr negated =>
+      rw [List.mem_map] at negated
+      rcases negated with ⟨orig, orig_mem, neg_orig⟩
+      rw [← neg_orig]
+      simp [hyp.1 orig orig_mem]
+
+/-- Adding more constraints cannot enlarge the set of feasible solutions. -/
+lemma feasiblesLinearProgram_superset_of_constraints_subset {lp₁ lp₂ : LinearProgram K P}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:86]: This and the result below should be in the namespace
```suggestion
lemma LinearProgram.feasibles_superset_of_constraints_subset {lp₁ lp₂ : LinearProgram K P}
```

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Unresolving for my second sentence

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Yeah, I haven't opened in IDE yet.

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Now.

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 17]
```diff
@@ -0,0 +1,102 @@
...
+
+lemma LinearProgram.feasibles_mkOfEqs
+    (equalities inequalities : List (P →ᵃ[K] K)) (objective : P →ᵃ[K] K) :
+    (mkOfEqs equalities inequalities objective).feasibles =
+    { x : P | (∀ a ∈ equalities, a x = 0) ∧ (∀ a ∈ inequalities, 0 ≤ a x) } := by
+  ext x
+  rw [mem_feasibles]
+  constructor
+  · intro hyp
+    simp only [LinearProgram.mkOfEqs, List.append_assoc, List.mem_append, List.mem_map,
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:58]: Why not do these before the `constructor` too, to save doing them twice?

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 18]
```diff
@@ -0,0 +1,83 @@
...
+Copyright (c) 2023 Martin Dvorak. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Martin Dvorak
+-/
+import Mathlib.LinearAlgebra.Matrix.ToLin
+import Mathlib.LinearAlgebra.AffineSpace.AffineMap
+
+/-! # Linear programming
+
+Minimizing a linear function on a region defined by linear inequalities.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:11]: This should include a discussion about the meaning of  "linear" in linear program vs the use of `linear` in mathlib, and why it's actually `affine`.

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 19]
```diff
@@ -0,0 +1,83 @@
...
+ * `LinearProgram.feasibles` is the set of all admissible solutions to given linear program.
+ * `LinearProgram.MinAt` defines an optimum solution of given linear program.
+
+-/
+
+/-- Linear program in the form of inequalities with general variables. -/
+structure LinearProgram (K : Type*) {V : Type*} (P : Type*)
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor V P] where
+  /-- Inequality constraints (given in the form "aᵀx - b ≥ 0") -/
+  constraints : List (P →ᵃ[K] K)
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:25]: The doc-string doesn't match the content. There's no `a` or `b` there, so don't confuse matters by introducing them.

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 20]
```diff
@@ -0,0 +1,83 @@
...
+  /-- The objective function (affine map) -/
+  objective : P →ᵃ[K] K
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:27]: I don't particularly like the design, with constraints and objective bundled together. The feasibility of constraints makes no mention of the objective, and the design should allow talking about this without an objective. Please separate these.

File: Mathlib/LinearAlgebra/LinearProgramming.lean [hunk 21]
```diff
@@ -0,0 +1,83 @@
...
+
+ * `LinearProgram` defines a linear program in a form that generalizes "A x ≥ b".
+ * `LinearProgram.feasibles` is the set of all admissible solutions to given linear program.
+ * `LinearProgram.MinAt` defines an optimum solution of given linear program.
+
+-/
+
+/-- Linear program in the form of inequalities with general variables. -/
+structure LinearProgram (K : Type*) {V : Type*} (P : Type*)
+    [LinearOrderedField K] [AddCommGroup V] [Module K V] [AddTorsor V P] where
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:23]: Why are you asking for `LinearOrderedField`? I think this definition should allow `K = Int`.

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 19 above)
Comment (semorrison) [inline Mathlib/LinearAlgebra/LinearProgramming.lean:25]: I am skeptical about making this a `List` rather than a `Set`. One is not actually going to do computation with this type: any meaningful algorithm will require a much more complicated data structure.

Comment (semorrison) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:25]: Happy to hear Martin's take on this, or for someone to click "resolve" as is.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:25]: If finiteness is really the thing of interest though, you could argue that what we actually want is the type of convex sets built from finitely many half pans; either non-constructively via an existential, or constructively via a Finset and a proof that removing any one element increases the size of the feasible set.

Comment (Shreyas4991) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:25]: Can you induct on Finsets?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:25]: `Finset.cons_induction`

Comment (Shreyas4991) [reply Mathlib/LinearAlgebra/LinearProgramming.lean:25]: About the second part of your comment, redundant constraints are often a thing that we have to deal with. So we probably shouldn't have the proof obligation that says "removing a constraint strictly increases the feasible set"

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 20 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Would you be more happy with the following definitions?
```
def LinearProgramFeas (R : Type*) {V : Type*} (P : Type*)
    [LinearOrderedRing R] [AddCommGroup V] [Module R V] [AddTorsor V P] :=
  List (P →ᵃ[R] R)

structure LinearProgramOpt (R : Type*) {V : Type*} (P : Type*)
    [LinearOrderedRing R] [AddCommGroup V] [Module R V] [AddTorsor V P] where
  constraints : LinearProgramFeas R P
  objective : P →ᵃ[R] R
```

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 19 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: I remember we talked about something related to the choice `List` vs `Set` in the LP definition, but I don't remember what the discussion was about. Right now, I cannot think of any objection to infinitely many constraints in the LP definition. Of course, many results will be restricted to finite settings.

Comment (Shreyas4991) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: If you allow arbitrarily many conditions, what is the guarantee that you even have a polytope with well defined planes, vertices, faces etc. For example, you could define the set of all tangents to a sphere or an ellipsoid by parametrization as constraints. Would it still be a linear program in any meaningful sense?

Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: You are right. Just one comment (not contradicting to your suggestion); all point on the sphere would be vertices.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: > About the second part of your comment, redundant constraints are often a thing that we have to deal with (because they come from the ambient problem in the LP). So we probably shouldn't have the proof obligation that says "removing a constraint strictly increases the feasible set"

I don't think this claim necessarily holds merit; finsets are not allowed to hold duplicates, and have a proof obligation to this end; but that doesn't stop you from writing `{1, 1, 2, 2}`. You only have to deal with the proof obligation if you call `Finset.mk` directly.

Arguably this "Finset of non-redundant affine constraints" object deserves it's own `Polytope` object.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Though another reasonable approach might be to discard the proof obligation and work with the quotient of the type by equality of feasible spaces

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 20 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: Why not two structures, one extending the other?

Presumably for the "just the constraints" version, you then want definitions `satisfiable_at` and `satisfiable`, with lots of lemmas about how these interact with list operations (e.g. adding/erasing etc constraints).

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 19 above)
Comment (Shreyas4991) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: A redundant LP need not have identical constraints. It just needs to be a linear combination of other constraints (and thereby hold because the other constraints are). I am not sure I see the value in doing, let's say Gaussian elimination on constraints, to extract independent ones makes sense every time an LP is defined. In computer science and also possibly OR, redundant constraints are a fact of life that have to be dealt with algorithmically, and so one often constructs what Mathlib devs might call API lemmas to deal with these cases.

**Comment by madvorak** [comment]
Alternative: #9693

**Comment by madvorak** [comment]
Another alternative: https://github.com/leanprover-community/mathlib4/pull/10026

File: Mathlib/LinearAlgebra/LinearProgramming.lean (hunk 19 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/LinearProgramming.lean]: When I think about it, having infinitely many conditions is less weird than having infinitely many variables. Given that Mathlib maintainers want the variable space to be general, we should also make the condition space general. Defining conditions as a list (or a multiset, or a finite set) of any type will be bad for LP duality, unless we change the type of `P` along with it.
